US05668138
1-[(7-METHOXY-2-OXOCHROM-3-EN-4-YL)METHYL]-4-BENZYLPIPERAZINE (base and hydrochloride)
0.03 mol of 1-benzylpiperazine, 0.03 mol of 7-methoxy-2-oxo-4-bromomethyl-3-chromene and 0.03 mol of potassium bicarbonate are introduced into an Erlenmeyer flask containing 150 ml of tetrahydrofuran. The mixture is brought to reflux for 24 hours. The reaction is brought to an end and, after cooling, the solution is filtered and evaporated under reduced pressure. The residue is then purified by chromatography on a column of silica gel, methylene chloride generally being used as eluent. The final product is thus obtained in the base form.

reactant | 1-benzylpiperazine | 0.03 mol | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 7-methoxy-2-oxo-4-bromomethyl-3-chromene | 0.03 mol | COC1=CC=C2C(=CC(OC2=C1)=O)CBr | C11H9BrO3
reactant | potassium bicarbonate | 0.03 mol | C([O-])(O)=O.[K+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-[(7-METHOXY-2-OXOCHROM-3-EN-4-YL)METHYL]-4-BENZYLPIPERAZINE | COC1=CC=C2C(=CC(OC2=C1)=O)CN1CCN(CC1)CC1=CC=CC=C1 | C22H24N2O3
